US06608068B2
2-fluoro-3-(1′,2′-Dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)benzaldehyde Oxime
The title compound was prepared from 3-bromo-2-fluorobenzaldoxime (0.40 g, 1.83 mmol) and (spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic acid as described in example 18, to afford the product (0.094 g, 0.27 mmol, 15% yield) as a white solid: mp. 213-217° C.; 1H NMR (CDCl3) δ 10.95 (s, 1H), 9.65 (s, 1H), 8.41 (s, 1H), 7.76 (t, 1H, J=7.1 Hz), 7.59 (s, 1H), 7.43-7.33 (m, 3H), 7.19 (t, 1H, J=7.7 Hz), 6.98 (d, 1H, J=8 Hz) and 1.91-1.60 (m, 10H); MS ((+) ESI) m/z=339 [M+H]+.

reactant | 3-bromo-2-fluorobenzaldoxime | 1.83 mmol, 0.40 g | BrC=1C(=C(C=NO)C=CC1)F | C7H5BrFNO
reactant | (spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one-5-yl)boronic acid | N1C(C2(C3=CC=CC=C13)CCCC(C2)B(O)O)=O | C13H16BNO3
product | 2-fluoro-3-(1′,2′-Dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)benzaldehyde Oxime | FC1=C(C=NO)C=CC=C1C=1C=C2C3(C(NC2=CC1)=O)CCCCC3 | C20H19FN2O2
